US07662402B2
In 30 ml of ethylene glycol dimethyl ether, 8.4 g of 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate and 5.9 g of malononitrile were dissolved. Thereto 12.3 g of potassium carbonate was added and the mixture was stirred at room temperature for 8 hours. Thereafter dilute hydrochloric acid was added to the reaction mixture and the mixture was extracted with t-butyl methyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 2.1 g of 2-(2,2,3,3,3-pentafluoropropyl)malononitrile.

reactant | 2,2,3,3,3-pentafluoropropyl trifluoromethanesulfonate | 8.4 g | FC(S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F | C4H2F8O3S
reactant | malononitrile | 5.9 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol dimethyl ether | 30 ml | COCCOC | C4H10O2
product | 2-(2,2,3,3,3-pentafluoropropyl)malononitrile | 2.1 g | FC(CC(C#N)C#N)(C(F)(F)F)F | C6H3F5N2
